US07208498B2
Step C. 7,8-Dibenzyl-4-chloro-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine
A mixture of 669 mg (1.68 mmol) of 7,8-dibenzyl-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ol and 1.2 mL of phenylphosphonic dichloride was heated in a sealed tube at 150° C. for 2.5 h. The mixture was cooled to ˜100° C., then poured into crushed ice, washing with ethyl acetate. The resultant biphasic mixture was neutralized with solid sodium bicarbonate to ˜pH 8 with vigorous stirring. The ethyl acetate layer was removed. The aqueous layer was extracted with ethyl acetate. The combined organic phases were washed sequentially with saturated aqueous sodium bicarbonate solution and brine, dried, and concentrated to give a red, viscous oil. Purification by Biotage chromatography (silica gel, 5% ethyl acetate/hexane) gave 464 mg (66%) of the title compound as a yellow solid. LC-MS 418.0 (M+1).

reactant | 7,8-dibenzyl-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ol | 1.68 mmol, 669 mg | C(C1=CC=CC=C1)N1C(C=2N=C(N=C(C2CC1)O)C(F)(F)F)CC1=CC=CC=C1 | C22H20F3N3O
reactant | phenylphosphonic dichloride | 1.2 mL | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
product | 7,8-Dibenzyl-4-chloro-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 464 mg, 66% | C(C1=CC=CC=C1)N1C(C=2N=C(N=C(C2CC1)Cl)C(F)(F)F)CC1=CC=CC=C1 | C22H19ClF3N3
